US06569854B1
To 3.22 g of 2-{3-(tert-butyldimethylsilyloxy)-1,1-dimethylpropyl}-3,5-dimethyl-phenol in solution in 60 cm3 of tetrahydrofuran, there are added, at 20° C. under an argon atmosphere and in small portions, 0.32 g of sodium hydride (at 75% in mineral oil), and then 15 minutes later 1.16 cm3 of 4-bromobutyryl chloride. After stirring for 40 minutes, 100 cm3 of ether, 10 cm3 of distilled water and 10 cm3 of a saturated aqueous sodium chloride solution are added. After stirring, the organic phase is decanted off, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is filtered on 75 g of silica (particle size 0.063-0.2 mm), eluting successively with cyclohexane and then with a cyclohexane/ethyl acetate mixture (90/10 by volume). 2 g of 2-{3-(tert-butyldimethyl-silyloxy)-1,1-dimethylpropyl}-3,5-dimethylphenol 4-bromobutyrate are thus obtained in the form of a colorless oil.

reactant | 2-{3-(tert-butyldimethylsilyloxy)-1,1-dimethylpropyl}-3,5-dimethyl-phenol | 3.22 g | [Si](C)(C)(C(C)(C)C)OCCC(C)(C)C1=C(C=C(C=C1C)C)O | C19H34O2Si
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | 4-bromobutyryl chloride | 1.16 cm3 | BrCCCC(=O)Cl | C4H6BrClO
reactant | sodium chloride | 10 cm3 | [Cl-].[Na+]
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | water | 10 cm3 | O | H2O
solvent | ether | 100 cm3 | CCOCC | C4H10O
product | 2-{3-(tert-butyldimethyl-silyloxy)-1,1-dimethylpropyl}-3,5-dimethylphenol 4-bromobutyrate | 2 g | C(C)(C)(C)[Si](OCCC(C)(C)C1=C(C=C(C=C1C)C)O)(C)C.BrCCCC(=O)[O-] | InChI=1S/C19H34O2Si.C4H7BrO2/c1-14-12-15(2)17(16(20)13-14)19(6,7)10-11-21-22(8,9)18(3,4)5;5-3-1-2-4(6)7/h12-13,20H,10-11H2,1-9H3;1-3H2,(H,6,7)/p-1
